US07851473B2
(1) 2-Fluorobenzenecarboximidamide
To a solution of hexamethyldisilazane (19.4 g, 120 mmol) in diethyl ether (200 ml) was added dropwise a 1.6 N solution (75.0 ml, 120 mmol) of n-butyllithium in hexane under ice-cooling. Thereto 2-fluorobenzonitrile (7.01 g, 57.9 mmol) was added, followed by stirring at room temperature for 2 hours. Thereto 3 N hydrochloric acid (80 ml) was added dropwise under ice-cooling, and the reaction mixture was stirred at room temperature for 0.5 hour. Water (200 ml) was added thereto, and the ether layer was removed. The aqueous layer was basified with an aqueous 3 N sodium hydroxide solution, and then extracted with chloroform. The extracts were dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to give 5.17 g (64.7%) of the desired product as a solid.

reactant | hexamethyldisilazane | 120 mmol, 19.4 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-fluorobenzonitrile | 57.9 mmol, 7.01 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | hydrochloric acid | 3 N, 80 ml | Cl | ClH
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | Water | 200 ml | O | H2O
product | 2-Fluorobenzenecarboximidamide | 5.17 g, 64.7% | FC1=C(C=CC=C1)C(N)=N | C7H7FN2
